US06248754B1
N-(8-Bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-3-methoxy-3-trifluoromethylbenzamide (0.25 g), was combined with lithium chloride (0.06 g), tetramethyltin (0.08 ml) and bis(triphenylphosphine)palladium(II)chloride (0.025 g) in dimethylformamide (5 ml) and the mixture warmed to 100° C. for 24 h. Solvent was removed at reduced pressure, filtered (Celite pad) and the filtrate column chromatographed (silica gel, diethyl ether eluant) to give N-(8-methyl-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4methoxy-3-trifluoromethylbenzamide (0.16 g).

reactant | N-(8-Bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-3-methoxy-3-trifluoromethylbenzamide | 0.25 g | BrC=1C(=CC=C2CCN(CC12)C(C(F)(F)F)=O)NC(C=1CC(C=CC1)(C(F)(F)F)OC)=O | C20H17BrF6N2O3
reactant | lithium chloride | 0.06 g | [Cl-].[Li+]
reactant | tetramethyltin | 0.08 ml | C[Sn](C)(C)C
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.025 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | N-(8-methyl-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-4methoxy-3-trifluoromethylbenzamide | 0.16 g | CC=1C(=CC=C2CCN(CC12)C(C(F)(F)F)=O)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C21H18F6N2O3
